US05705531
(1S,3aS,5S,7aR)-1-[(E)-(2-Imidazolin-2-yl)hydrazono]methyl-5-phenyl-7a-methylperhydroinden-3a-ol hydrobromide (I-aj)
To a solution of 0.93 g of 2-hydrazino-2-imidazoline hydrobromide in 45 ml of water and 30 ml of dioxane a solution of 0.89 g of (1S,3aS,5S,7aR)-1-formyl-5-phenyl-7a-methylperhydroinden-3a-ol in 30 ml of dioxane was added dropwise at room temperature and the mixture was stirred for 2 hrs. The solution was evaporated to dryness under reduced pressure and the residue was ground with ethanol/water then with ethanol to give 0.78 g of the title compound (I-al) as a white solid.

reactant | 2-hydrazino-2-imidazoline hydrobromide | 0.93 g | Br.N(N)C=1NCCN1
reactant | (1S,3aS,5S,7aR)-1-formyl-5-phenyl-7a-methylperhydroinden-3a-ol | 0.89 g | C(=O)[C@H]1CC[C@@]2(C[C@H](CC[C@]12C)C1=CC=CC=C1)O | C17H22O2
solvent | water | 45 ml | O | H2O
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | (1S,3aS,5S,7aR)-1-[(E)-(2-Imidazolin-2-yl)hydrazono]methyl-5-phenyl-7a-methylperhydroinden-3a-ol hydrobromide | 0.78 g | Br.N1C(=NCC1)N\N=C\[C@H]1CC[C@@]2(C[C@H](CC[C@]12C)C1=CC=CC=C1)O | InChI=1S/C20H28N4O.BrH/c1-19-9-7-16(15-5-3-2-4-6-15)13-20(19,25)10-8-17(19)14-23-24-18-21-11-12-22-18;/h2-6,14,16-17,25H,7-13H2,1H3,(H2,21,22,24);1H/b23-14+;/t16-,17+,19+,20-;/m0./s1
